US04367238
A solution of 2-[2-hydroxy-3-(3-chlorophenoxy)phenyl]acetic acid (2 g) in acetic anhydride (10 ml) was treated in a similar manner to that of Example 6-(7) to give 7-(3-chlorophenoxy)-2,3-dihydrobenzofuran-2-one (1.65 g). mp 105°-106° C.

reactant | 2-[2-hydroxy-3-(3-chlorophenoxy)phenyl]acetic acid | 2 g | OC1=C(C=CC=C1OC1=CC(=CC=C1)Cl)CC(=O)O | C14H11ClO4
solvent | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 7-(3-chlorophenoxy)-2,3-dihydrobenzofuran-2-one | 1.65 g | ClC=1C=C(OC2=CC=CC=3CC(OC32)=O)C=CC1 | C14H9ClO3
